US07569600B2
Reductive amination of 3-amino-5-(4,4-dimethyl-cyclohex-1-enyl)-thiophene-2-carboxylic acid methyl ester (0.630 g, 2.37 mmol) and 5-[1,2,4]triazol-1-yl-heptan-2-one (0.560 g, 3.39 mmol) was performed under the same conditions previously described (example 3, step I) using dibutyltin dichloride and phenylsilane to give 5-(4,4-Dimethyl-cyclohex-1-enyl)-3-(trans-4-[1,2,4]triazol-1-yl-cyclohexylamino)-thiophene-2-carboxylic acid methyl ester (0.800 g, 64%).

reactant | 3-amino-5-(4,4-dimethyl-cyclohex-1-enyl)-thiophene-2-carboxylic acid methyl ester | 2.37 mmol, 0.630 g | COC(=O)C=1SC(=CC1N)C1=CCC(CC1)(C)C | C14H19NO2S
reactant | 5-[1,2,4]triazol-1-yl-heptan-2-one | 3.39 mmol, 0.560 g | N1(N=CN=C1)C(CCC(C)=O)CC | C9H15N3O
reactant | dibutyltin dichloride | C(CCC)[Sn](CCCC)(Cl)Cl
reactant | phenylsilane | C1(=CC=CC=C1)[SiH3] | C6H8Si
product | 5-(4,4-Dimethyl-cyclohex-1-enyl)-3-(trans-4-[1,2,4]triazol-1-yl-cyclohexylamino)-thiophene-2-carboxylic acid methyl ester | 0.800 g, 64% | COC(=O)C=1SC(=CC1N[C@@H]1CC[C@H](CC1)N1N=CN=C1)C1=CCC(CC1)(C)C | C22H30N4O2S
